US05817700
Step 1: 4-Methylthiobenzyltriphenylphosphonium chloride
A solution of 4-methylthiobenzyl chloride (3.1 g) and triphenylphosphine (4.72 g) was heated in toluene (35 mL) at reflux for 18 hr. The mixture was cooled to 0° C. and filtered. The resulting solid was used as such in the next step.

reactant | 4-methylthiobenzyl chloride | 3.1 g | CSC1=CC=C(CCl)C=C1 | C8H9ClS
reactant | triphenylphosphine | 4.72 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | toluene | 35 mL | C1(=CC=CC=C1)C | C7H8
product | 4-Methylthiobenzyltriphenylphosphonium chloride | [Cl-].CSC1=CC=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1 | InChI=1S/C26H24PS.ClH/c1-28-26-19-17-22(18-20-26)21-27(23-11-5-2-6-12-23,24-13-7-3-8-14-24)25-15-9-4-10-16-25;/h2-20H,21H2,1H3;1H/q+1;/p-1
